US08404856B2
Step 4: Methyl [1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate (12-4)
To a solution of methyl 1H-pyrazolo[3,4-b]pyridin-3-ylacetate (84 mg, 0.439 mmol) in acetonitrile (3 mL) was added DHP (37 mg, 0.439 mmol) and DDQ (10 mg, 0.044 mmol). This mixture was heated to 75° C. for 20 minutes. After this time, additional DHP (37 μL, 0.44 mmol) was added and the reaction mixture heated to 85° C. for 1.5 hours. The reaction mixture was partitioned between water (10 mL) and ethyl acetate (2×20 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and evaporated in vacuo. This residue was purified by chromatography using RediSep column (12 g) and eluting with gradient of 0-20% EtOAc/CH2Cl2. The desired fractions were combined and the solvent evaporated in vacuo to give the title compound. LRMS (M+1): 276.1.

reactant | methyl 1H-pyrazolo[3,4-b]pyridin-3-ylacetate | 0.439 mmol, 84 mg | N1N=C(C=2C1=NC=CC2)CC(=O)OC | C9H9N3O2
reactant | DHP | 0.439 mmol, 37 mg | C1CC=COC1 | C5H8O
reactant | DDQ | 0.044 mmol, 10 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | DHP | 0.44 mmol, 37 μL | C1CC=COC1 | C5H8O
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | Methyl [1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-b]pyridin-3-yl]acetate | O1C(CCCC1)N1N=C(C=2C1=NC=CC2)CC(=O)OC | C14H17N3O3
